US07723378B2
To a solution of 3-(4-formyl-2,6-dimethyl-phenyl)-acrylic acid (2.2 g, 10.8 mmol) and DIPEA (2.0 mL, 11.9 mmol) in ethanol (80 mL), Pd/C (200 mg, 10% Pd, moistened with 50% water) is added. The suspension is vigorously stirred under 1 bar of H2 for 1 h. The mixture is filtered over Celite and the filtrate is evaporated. The residue is poured onto 1 N aq. HCl/ice and extracted with EA. The organic extract is washed once with 1 N aq. HCl and once with brine, dried over MgSO4, filtered and evaporated to give 3-(4-hydroxymethyl-2,6-dimethyl-phenyl)-propionic acid (2.2 g) as a pale yellow resin; LC-MS: tR=0.71 min.

reactant | 3-(4-formyl-2,6-dimethyl-phenyl)-acrylic acid | 10.8 mmol, 2.2 g | C(=O)C1=CC(=C(C(=C1)C)C=CC(=O)O)C | C12H12O3
reactant | DIPEA | 11.9 mmol, 2.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 80 mL | C(C)O | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 3-(4-hydroxymethyl-2,6-dimethyl-phenyl)-propionic acid | 2.2 g | OCC1=CC(=C(C(=C1)C)CCC(=O)O)C | C12H16O3
